US07271262B2
270A. 4-Chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine
Iodomethane (12.2 mL, 195 mmol) was added to a solution of 4-Chloro-7H-pyrrolo[2,3-d]pyrimidine (15.0 g, 97.7 mmol) and cesium carbonate (47.7 g, 146.5 mmol) in DMF (200 mL). The reaction mixture was stirred at room temperature 1 h, quenched with H2O (500 mL), and extracted with EtOAc (3×200 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo. Purification by flash column chromatography (silica, 2:8→3:7 EtOAc:hexanes) provided the title compound as an off-white solid (15.4 g, 94%). MS: 168.5 (MH+); HPLC Rf: 3.45 min. (HPLC method 4); HPLC purity: 96%.

reactant | Iodomethane | 195 mmol, 12.2 mL | IC | CH3I
reactant | 4-Chloro-7H-pyrrolo[2,3-d]pyrimidine | 97.7 mmol, 15.0 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | cesium carbonate | 146.5 mmol, 47.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 15.4 g, 94% | ClC=1C2=C(N=CN1)N(C=C2)C | C7H6ClN3
